US04344943
Methyl 5-benzoyl-6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate (1.10 g.) in 30 ml. of methanol containing 2 molar equivalents potassium carbonate in 10 ml. of water is heated at reflux temperature for three hours. The methanol is removed in vacuo and water is added to the residue. The solution is extracted with ethyl acetate, the aqueous phase is cooled to 0° and made acidic with 20% hydrochloric acid. The solid which precipitates is collected by filtration, washed with cold water and dried in vacuo. The residue is crystallized from methanol-water to give 5-benzoyl-6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid, m.p. 190° C.

reactant | Methyl 5-benzoyl-6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | 1.10 g | C(C1=CC=CC=C1)(=O)C1=C(C=C2N1CCC2C(=O)OC)Cl | C16H14ClNO3
reactant | methanol | 2 molar | CO | CH4O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 5-benzoyl-6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | C(C1=CC=CC=C1)(=O)C1=C(C=C2N1CCC2C(=O)O)Cl | C15H12ClNO3
